US07582657B2
(b) 4-(4-Trifluoromethyl-phenyl)-pyridine 1-oxide
To a mixture of 4-(4-trifluoromethyl-phenyl)-pyridine (5.0 g, 22 mmol) and methyltrioxorhenium (VII) (Aldrich) (110 mg, 0.45 mmol) in a 100-mL, round-bottomed flask was added CH2Cl2 (10 mL). Hydrogen peroxide (5 mL, Aldrich) was added drop-wise, and the reaction was stirred at room temperature under N2 for 48 h. The mixture was partitioned between CH2Cl2 and brine, and the aqueous layer was extracted with CH2Cl2 (40 mL). The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo to give the title compound as an off-white solid. MS (ESI, pos. ion) m/z: 240 (M+1).

reactant | 4-(4-trifluoromethyl-phenyl)-pyridine | 22 mmol, 5.0 g | FC(C1=CC=C(C=C1)C1=CC=NC=C1)(F)F | C12H8F3N
reactant | Hydrogen peroxide | 5 mL | OO | H2O2
catalyst | methyltrioxorhenium (VII) | 0.45 mmol, 110 mg | C[Re](=O)(=O)=O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Trifluoromethyl-phenyl)-pyridine 1-oxide | FC(C1=CC=C(C=C1)C1=CC=[N+](C=C1)[O-])(F)F | C12H8F3NO
